US05800734
1.1 ml of diethylaminosulphur trifluoride (DAST) are added dropwise in 3 portions over 60 hours to a solution of 1.7 g of 4-{trans-4-[2-(2,6-difluoro-4-propylphenyl)ethyl]cyclohexyl}cyclohexanone in 30 ml of dimethoxyethane and 0.1 ml of trifluoro-methanesulphonic acid. The reaction solution is subsequently partitioned between sodium carbonate solution/ether. The organic phase is washed twice with water and the aqueous phases are individually extracted twice with ether. The organic phases are combined, dried over magnesium sulfate, filtered and the filtrate is evaporated completely. The crude product obtained is chromatographed over silica gel and gives 1-fluoro-4-{trans-4-[2-(2,6-difluoro-4-propylphenyl)ethyl]cyclohexyl }cyclohex-1-ene.

reactant | diethylaminosulphur trifluoride | 1.1 ml | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | 4-{trans-4-[2-(2,6-difluoro-4-propylphenyl)ethyl]cyclohexyl}cyclohexanone | 1.7 g | FC1=C(C(=CC(=C1)CCC)F)CC[C@@H]1CC[C@H](CC1)C1CCC(CC1)=O | C23H32F2O
solvent | dimethoxyethane | 30 ml | C(OC)COC | C4H10O2
solvent | trifluoro-methanesulphonic acid | 0.1 ml | FC(S(=O)(=O)O)(F)F | CHF3O3S
product | 1-fluoro-4-{trans-4-[2-(2,6-difluoro-4-propylphenyl)ethyl]cyclohexyl }cyclohex-1-ene | FC1=CCC(CC1)[C@@H]1CC[C@H](CC1)CCC1=C(C=C(C=C1F)CCC)F | C23H31F3
